US07276516B2
3-Cyclopentyl-1H-indazole
Dissolve Cyclopentyl-(2-fluoro-phenyl)-methanone (2.5 g 13.005 mmoles) in hydrazine (20 ml) heat to 130° C. for 72 hrs. Cool mixture to 0° C. Filter the precipitate and wash with cold water to give the title compound: 2.171 g (yield=89%) MS ES+ 187.12:MSES− 185.22.

reactant | Cyclopentyl-(2-fluoro-phenyl)-methanone | 13.005 mmoles, 2.5 g | C1(CCCC1)C(=O)C1=C(C=CC=C1)F | C12H13FO
reactant | hydrazine | 20 ml | NN | H4N2
product | 3-Cyclopentyl-1H-indazole | yield=89% | C1(CCCC1)C1=NNC2=CC=CC=C12 | C12H14N2
